US08686024B2
Synthesis of 1-benzylindolin-5-yl 5-benzo[d][1,3]dioxolylcarbamate
The title compound was synthesized from 1-benzylindolin-5-ol (35.0 mg, 0.155 mmol) using the same procedure employed for Example 2 (2), but with 3,4-(methylenedioxy)phenylisocyanate instead of 4-isopropylphenylisocyanate. The product was obtained as a white solid (21.6 mg, 34%) having the following characteristics.

reactant | 1-benzylindolin-5-ol | 0.155 mmol, 35.0 mg | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)O | C15H15NO
reactant | 3,4-(methylenedioxy)phenylisocyanate | C1OC=2C=C(C=CC2O1)N=C=O | C8H5NO3
product | 1-benzylindolin-5-yl 5-benzo[d][1,3]dioxolylcarbamate | O1COC2=C1C=CC(=C2)NC(OC=2C=C1CCN(C1=CC2)CC2=CC=CC=C2)=O | C23H20N2O4
